US04022769
17β,19-Dihydroxy-1αmethyl-4-androsten-3-one in acetic acid is treated with ethanedithiol and p-toluenesulfonic acid. After standing about 4 hours at room temperature, the solution is poured onto water and the mixture extracted with methylenechloride. The methylene-chloride extract is washed well with water, sodium hydroxide solution, water, dried over sodium sulfate and evaporated under reduced pressure to leave 17β,19-dihydroxy-1α-methyl-4-androsten-3-one 3-ethylenethioketal which is recrystallized once from acetone-hexane.

reactant | 17β,19-Dihydroxy-1αmethyl-4-androsten-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C[C@@H]([C@]3(CO)[C@H]1CC2)C)=O | C20H30O3
reactant | ethanedithiol | C(C)(S)S | C2H6S2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 17β,19-dihydroxy-1α-methyl-4-androsten-3-one 3-ethylenethioketal | C1CSC2(C=C3CC[C@H]4[C@@H]5CC[C@@H]([C@@]5(C)CC[C@@H]4[C@]3([C@H](C2)C)CO)O)O1 | C22H34O3S
